US09079866B2
Racemic-1-((2-Bromophenyl)sulfonyl)-3,5-dimethylpiperazine
A solution of 2-bromobenzene-1-sulfonyl chloride (100 mg, 0.39 mmol), 2,6-dimethylpiperazine (56 mg, 0.49 mmol), and diisopropylethyl amine (0.202 mL, 1.17 mmol) in CH2Cl2 (2.5 mL) was allowed to stir for 15 min at rt. The reaction mixture was then directly subjected to FCC purification to give the title compound (0.105 g, 81%). 1H NMR (600 MHz, CDCl3) δ 8.09-8.07 (m, 1H), 7.76-7.73 (m, 1H), 7.47-7.44 (m, 1H), 7.43-7.37 (m, 1H), 3.70-3.66 (m, 2H), 2.97-2.91 (m, 2H), 2.38-2.33 (m, 2H), 1.06-1.04 (m, 6H).

reactant | 2-bromobenzene-1-sulfonyl chloride | 0.39 mmol, 100 mg | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 2,6-dimethylpiperazine | 0.49 mmol, 56 mg | CC1NC(CNC1)C | C6H14N2
reactant | diisopropylethyl amine | 1.17 mmol, 0.202 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | Racemic-1-((2-Bromophenyl)sulfonyl)-3,5-dimethylpiperazine | 0.105 g, 81% | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(NC(C1)C)C | C12H17BrN2O2S
